US04102888
Step D. Preparation of 7-[2-(3-Hydroxy-5-phenyl-1-transpentenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid
Sodium borohydride (1.25 molar equivalents) is added in small portions over 1/2 hour to a stirred solution of 7-[2-(3-oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]heptanoic acid (1 molar equivalent) in ethanol maintained at 0° to 5° C. Upon completing the hydride addition, the reaction mixture is stirred at 0° to 5° for 1/2 hour, then at ambient temperature for 21/2 hours. The resulting reaction mixture is cooled to 0° to 5° C., diluted with ice water and cautiously acidified to Congo Red with 2 N hydrochloric acid providing a turbid aqueous mixture which is extracted several times with ether. The combined organic extract is dried over sodium sulfate and filtered. In vacuo evaporation of the filtrate at 40° to 50° C. leaves an oily residue which is purified by chromatography on silica gel providing the title compound as a viscous, pale yellow oil.

reactant | Sodium borohydride | 1.25 molar | [BH4-].[Na+]
reactant | 7-[2-(3-oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]heptanoic acid | 1 molar | O=C(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCC1=CC=CC=C1 | C21H27NO4S
reactant | hydride | [H-]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 7-[2-(3-Hydroxy-5-phenyl-1-transpentenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid | OC(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCC1=CC=CC=C1 | C21H29NO4S
